US07642269B2
Step 1: 2-(2,3-dimethyl-1H-pyrrolo[3,2-b]pyridin-7-yl)-1,2,3,4-tetrahydroisoquinoline
2-(3-Nitropyridin-4-yl)-1,2,3,4-tetrahydroisoquinoline (5 g, 19.58 mmol) prepared in Preparation 1 was dissolved in anhydrous tetrahydrofuran (200 ml) under a nitrogen atmosphere. 1-Methyl-1-propenyl magnesium bromide (0.5M in tetrahydrofuran solution, 80 ml, 117.5 mmol) was added at −78° C. to the solution, which was then stirred for 5 hours at −20° C. 20 ml of 20% ammonium chloride solution was added to the reaction mixture, which was then extracted with ethyl acetate (200 ml) twice. The separated organic layer was dried on anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography (ethyl acetate/methylene chloride/methanol=10/10/1, (v/v/v)) to give the titled compound as a pale yellow solid (2.1 g, 25.3%).

reactant | 2-(3-Nitropyridin-4-yl)-1,2,3,4-tetrahydroisoquinoline | 19.58 mmol, 5 g | [N+](=O)([O-])C=1C=NC=CC1N1CC2=CC=CC=C2CC1 | C14H13N3O2
reactant | 1-Methyl-1-propenyl magnesium bromide | 117.5 mmol, 0.5M, 80 ml | CC(=CC)[Mg]Br
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(2,3-dimethyl-1H-pyrrolo[3,2-b]pyridin-7-yl)-1,2,3,4-tetrahydroisoquinoline | 2.1 g, 25.3% | CC1=C(C2=NC=CC(=C2N1)N1CC2=CC=CC=C2CC1)C | C18H19N3
